US07767675B2
Step 1. tert-butyl 3-(2-aminopyrimidin-5-yl)benzoate
Sodium carbonate (0.636 g, 6.0 mmol) in water (2.0 mL) was added to a mixture of 5-bromopyrimidin-2-amine (0.348 g, 2.0 mmol), [3-(tert-butoxycarbonyl)phenyl]boronic acid (0.533 g, 2.4 mmol) and tetrakis(triphenylphosphine)palladium (69 mg, 0.06 mmol) in ethanol (3.0 mL) and toluene (3.0 mL). The resulting mixture was heated at 120° C. for 3 h. The mixture was diluted with EtOAc and washed with water and brine. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was treated with methanol. The precipitate was filtered and dried to give the product (399 mg, 73.5%). 272.1.

reactant | Sodium carbonate | 6.0 mmol, 0.636 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromopyrimidin-2-amine | 2.0 mmol, 0.348 g | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | [3-(tert-butoxycarbonyl)phenyl]boronic acid | 2.4 mmol, 0.533 g | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)B(O)O | C11H15BO4
solvent | water | 2.0 mL | O | H2O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.06 mmol, 69 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 3-(2-aminopyrimidin-5-yl)benzoate | 399 mg, 73.5% | NC1=NC=C(C=N1)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C15H17N3O2
